* C:\Users\Michael\Google Drive\Studium\SS20\HLST-Praktikum-Summer-2020\simulations\5_Differenzverstärker\MillerOP_nonlinear.asc
V1 N013 0 -15
R1 0 N010 1.33k
Q1 N010 N010 N011 0 BC547B
Q2 N009 N010 N012 0 BC547B
RE3 N011 N013 100
RE4 N012 N013 100
Q§T2 N005 N006 N009 0 BC547B
Q§T1 N004 Feedback N009 0 BC547B
V4 N001 0 15
Q§T3 N004 N004 N002 0 BC557B
Q§T4 N005 N004 N003 0 BC557B
RE1 N001 N002 33
RE2 N001 N003 33
Q§T5 N008 N005 N001 0 BC557B
R2 N008 Feedback 39k
R3 Feedback 0 1k
C1 N008 N005 2.63n
V2 N007 0 SINE(0 100e-3 1k)
I1 N008 N013 15m
C2 N007 N006 8µ
R4 N006 0 1k
.model NPN NPN
.model PNP PNP
.lib C:\Users\Michael\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.tran 0 .50 0 1u
;ac dec 10 1 1Meg
.four 1kHz V(n008)
* .option plotwinsize=0 numdgt=15
.backanno
.end
