* C:\Users\Michael\Google Drive\Studium\SS20\HLST-Praktikum-Summer-2020\simulations\5_Differenzverstärker\MillerOP_ra.asc
V1 N012 0 -15
R1 0 N009 1.33k
Q1 N009 N009 N010 0 BC547B
Q2 N008 N009 N011 0 BC547B
RE3 N010 N012 100
RE4 N011 N012 100
Q§T2 N005 N006 N008 0 BC547B
Q§T1 N004 Feedback N008 0 BC547B
V4 N001 0 15
Q§T3 N004 N004 N002 0 BC557B
Q§T4 N005 N004 N003 0 BC557B
RE1 N001 N002 33.28
RE2 N001 N003 33
Q§T5 N007 N005 N001 0 BC557B
RA N007 N012 2.2k
R2 N007 Feedback 39k
R3 Feedback 0 1k
C1 N007 N005 2.63n
V2 N006 0 0.1
R4 N007 0 {RL}
.model NPN NPN
.model PNP PNP
.lib C:\Users\Michael\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
;tran 0 .50 0 1u
;ac dec 10 1 1Meg
.step dec param RL 1 1k 30
.backanno
.end
